US05622953
a) 4-Chloromethyl-2-methoxymethyl-1,3-thiazole
A solution of 9 g of 2-methoxy-thioacetamide and 10.87 g 1,3-dichloroacetone in 90 ml ethanol was refluxed for 2 h. The solvent was evaporated and the residue neutralized with saturated sodium bicarbonate solution. After extraction with ether the organic phase was washed twice with water and dried over sodium sulfate. Evaporation of the solvent left 13.0 g crude product.

reactant | 2-methoxy-thioacetamide | 9 g | COCC(=S)N | C3H7NOS
reactant | 1,3-dichloroacetone | 10.87 g | ClCC(=O)CCl | C3H4Cl2O
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 4-Chloromethyl-2-methoxymethyl-1,3-thiazole | ClCC=1N=C(SC1)COC | C6H8ClNOS
